US07741339B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-(1,4-dimethyl-1H-indole-3-ylmethyl)-N-methylacrylamide
To a stirred solution of 1,4-dimethyl-3-(methylaminomethyl)-1H-indole (188.2 mg, 1 mmole) and (E)-3-(6-aminopyridin-3-yl)acrylic acid (164 mg, 1 mmole) in dry DMF (12 mL) containing dry Et3N (4 mL) was added HOBt H2O (153 mg, 1 mmole) and EDC (191.8 mg, 1 mmole). The reaction was stirred overnight under argon at ambient temperature, then was concentrated in vacuo. The residue was partitioned between EtOAc and 5% NaHCO3 solution, and the layers were separated. The organic layer was washed with brine, dried (MgSO4), filtered, and concentrated. Flash chromatography on silica gel afforded the title compound (120 mg, 36%) as a white solid: MS (ES) m/e 335.2 (M+H)+. Anal. Calcd for C20H22N4O.0.25H2O: C, 70.88; H, 6.69; N, 16.53. Found: C, 71.11; H, 6.72; N, 16.36.

reactant | 1,4-dimethyl-3-(methylaminomethyl)-1H-indole | 1 mmole, 188.2 mg | CN1C=C(C2=C(C=CC=C12)C)CNC | C12H16N2
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 1 mmole, 164 mg | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | HOBt H2O | 1 mmole, 153 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | EDC | 1 mmole, 191.8 mg
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 4 mL | CCN(CC)CC | C6H15N
product | (E)-3-(6-aminopyridin-3-yl)-N-(1,4-dimethyl-1H-indole-3-ylmethyl)-N-methylacrylamide | 120 mg, 36% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=CN(C2=CC=CC(=C12)C)C | C20H22N4O
